US04940710
1-Ethyl-6-fluoro-1,4-dihydro-7-[4-methyl-3-(2-thienyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid
A mixture of 200 mg of 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(2-thienyl)-1-piperazinyl]-3-quinolinecarboxylic acid, 0.3 ml of 37% formalin and 0.35 ml of 90% formic acid was refluxed for 2 hours, then evaporated. A 10 ml portion of water was added and the mixture neutralized with 1N sodium hydroxide. The solid was collected, washed with water, methanol, ether and dried, giving 170 mg of the desired product, mp 238°-240° C.

reactant | 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(2-thienyl)-1-piperazinyl]-3-quinolinecarboxylic acid | 200 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C=1SC=CC1)F)=O)C(=O)O | C20H20FN3O3S
reactant | formalin | 0.3 ml | C=O | CH2O
solvent | formic acid | 0.35 ml | C(=O)O | CH2O2
product | 1-Ethyl-6-fluoro-1,4-dihydro-7-[4-methyl-3-(2-thienyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid | 170 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(N(CC1)C)C=1SC=CC1)F)=O)C(=O)O | C21H22FN3O3S
